US06872833B2
(+)-4-Hydroxymethyl-4-methyl-piperidine-1-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide
From (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester with (4-methyl-piperidin-4-yl)-methanol trifluoroacetate and N-ethyldiisopropylamine in chloroform [α]D20=+24.1° (c=1.02, CHCl3), ES-MS m/e (%): 422 (M+H+, 100).

reactant | (+)-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC=1SC2=C(N1)C(=CC=C2C2OCCOC2)OC)=O | C19H18N2O5S
reactant | (4-methyl-piperidin-4-yl)-methanol trifluoroacetate | FC(C(=O)O)(F)F.CC1(CCNCC1)CO
reactant | N-ethyldiisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (+)-4-Hydroxymethyl-4-methyl-piperidine-1-carboxylic acid (7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-amide | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(=O)N2CCC(CC2)(C)CO)OC | C20H27N3O5S
